US05036107
1-(Trimethylsilyloxy)-1-cyclohexyl-1-phenylhex-5-yn-2-one
Lithium diisopropylamide is dissolved in dry THF and the solution cooled to -78° C. A solution containing 1-(trimethylsilyloxy)-1-cyclohexyl-1-phenylpropan-2-one in dry THF is added dropwise to the stirring solution at -78° C. After the addition is complete the reaction mixture is stirred for 1 hour. Then a solution of propargyl bromide in dry THF is added dropwise to the solution at -78° C. The solution is then warmed to 0° C. and stirred for 5 hours. An ether-acetic acid solution (9:1) is slowly added and the resultant mixture warmed to room temperature. Ether is added and the solution transferred to a separatory funnel and washed with water. The ether layer is dried over sodium sulfate and evaporated to dryness to afford the product as a white crystalline solid after recrystallization.

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(trimethylsilyloxy)-1-cyclohexyl-1-phenylpropan-2-one | C[Si](OC(C(C)=O)(C1=CC=CC=C1)C1CCCCC1)(C)C | C18H28O2Si
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | Ether | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 1-(Trimethylsilyloxy)-1-cyclohexyl-1-phenylhex-5-yn-2-one | C[Si](OC(C(CCC#C)=O)(C1=CC=CC=C1)C1CCCCC1)(C)C | C21H30O2Si
